### PR TITLE
Add lemmas for BlockPtr.DefUse

### PR DESCRIPTION
**Pull request by math-fehr**
These lemmas are copied from ValuePtr.DefUse, as both structures are extremely similar.

Also, add the missingUses argument to BlockPtr.Defuse that was missing

### CODE REVIEW

File: Veir/IR/WellFormed.lean [hunk 1]
```diff
@@ -234,18 +234,231 @@ theorem ValuePtr.DefUse.OpOperandPtr_setValue_other_of_value_ne
...
+  rw [← Array.toArray_toList (xs := array)]
+  grind [List.Nodup.not_mem_erase]
+
+theorem BlockPtr.DefUse_array_erase_array_index
+    (hWF : BlockPtr.DefUse value ctx array hvalue) :
+    ∀ (i : Nat) (iInBounds : i < array.size),
+    array.idxOf array[i] = i := by
+  have := DefUse_array_toList_Nodup hWF
+  rw [← Array.toArray_toList (xs := array)]
+  grind  [List.idxOf_getElem]
```
Comment (tobiasgrosser) [inline Veir/IR/WellFormed.lean]:
```suggestion
  grind [List.idxOf_getElem]
```

**Review by tobiasgrosser — APPROVED** [review]
